US04980360
A stirred mixture of 6-methoxy-4-methyl-8-nitro-5-(8-phenyloctoxy) quinoline (2.1 g, 0.005 mol), degreased 40 mesh Fe filings (5 g), H2O (20 ml), HOAc (4 ml) and n-Bu2O (4 ml) was heated at 80° C. to 1.5 h, cooled and filtered. The solid was thoroughly extracted with Et2O and the filtered extract was dried (Na2SO4), treated with carbon and concentrated to an oil. Trituration with pet ether gave 1.2 g (61%) of 8-amino-6-methoxy-4-methyl-5-(8-phenyloctoxy) quinoline as yellow-green solid, mp 33°-34° C. Crystallization from pet ether (Darco) gave the analytical sample as yellow green crystals, mp 39°-40° C.

reactant | 6-methoxy-4-methyl-8-nitro-5-(8-phenyloctoxy) quinoline | 0.005 mol, 2.1 g | COC=1C(=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C)OCCCCCCCCC1=CC=CC=C1 | C25H30N2O4
reactant | H2O | 20 ml | O | H2O
reactant | n-Bu2O | 4 ml | O(CCCC)CCCC | C8H18O
catalyst | Fe | [Fe] | Fe
solvent | HOAc | 4 ml | CC(=O)O | C2H4O2
product | 8-amino-6-methoxy-4-methyl-5-(8-phenyloctoxy) quinoline | 1.2 g, 61% | NC=1C=C(C(=C2C(=CC=NC12)C)OCCCCCCCCC1=CC=CC=C1)OC | C25H32N2O2
